US08022062B2
1-Fluoro-4-methoxy-2-(2-nitro-vinyl)-benzene:
Heat 2-fluoro-5-methoxybenzaldehyde (15 g, 97.4 mmol) with nitromethane (32 mL, 584 mmol) and ammonium acetate (30 g, 390 mmol) in acetic acid (136 mL) under reflux for 30 min. Evaporate the solvent and dissolve the residue in ether. Wash the organic fraction with water, saturated aqueous NaHCO3 and evaporate to give the desired intermediate (18.7 g, 97%). GC-MS m/z: 197 (M)+.

reactant | 2-fluoro-5-methoxybenzaldehyde | 97.4 mmol, 15 g | FC1=C(C=O)C=C(C=C1)OC | C8H7FO2
reactant | nitromethane | 584 mmol, 32 mL | [N+](=O)([O-])C | CH3NO2
reactant | ammonium acetate | 390 mmol, 30 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 136 mL | C(C)(=O)O | C2H4O2
product | 1-Fluoro-4-methoxy-2-(2-nitro-vinyl)-benzene | 18.7 g, 97% | FC1=C(C=C(C=C1)OC)C=C[N+](=O)[O-] | C9H8FNO3
